US04777167
Methyl 3,4,5,8,-tetrahydro-6-methyl-8-(3-nitrophenyl)-1,1-dioxo-2H-thiopyrano-[3,2-b]pyridine-7-carboxylate.
A mixture of tetrahydrothiopyran-3-one-1,1-dioxide (0.830 g, 0.0056 moles), 3-nitrobenzaldehyde (0.846 g, 0.0056 moles) and methyl 3-aminocrotonate (0.644 g, 0.0056 moles) in methanol (20 mL) was refluxed for 16 hours. After cooling, the resulting solid was isolated by filtration and washed with diethyl ether. This solid was dried at 40° C. for 4 hours under vacuum to give 0.620 g product; mp 236°-238° C.

reactant | tetrahydrothiopyran-3-one-1,1-dioxide | 0.0056 moles, 0.830 g | S1(CC(CCC1)=O)(=O)=O | C5H8O3S
reactant | 3-nitrobenzaldehyde | 0.0056 moles, 0.846 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | methyl 3-aminocrotonate | 0.0056 moles, 0.644 g | N\C(=C/C(=O)OC)\C | C5H9NO2
solvent | methanol | 20 mL | CO | CH4O
product | Methyl 3,4,5,8,-tetrahydro-6-methyl-8-(3-nitrophenyl)-1,1-dioxo-2H-thiopyrano-[3,2-b]pyridine-7-carboxylate | 0.620 g | CC1=C(C(C2=C(N1)CCCS2(=O)=O)C2=CC(=CC=C2)[N+](=O)[O-])C(=O)OC | C17H18N2O6S
